US08044213B2
A mixture of 0.200 g (0.42 mmole) of 4-(3-chloro-phenyl)-2-(5-dimethoxymethyl-4-methoxy-2-nitro-phenylamino)-thiazole-5-carboxylic acid amide (VI.46a), 6 mL of acetonitrile, 2 mL of 6 M hydrochloric acid heated at reflux for 2 hours. The mixture was diluted with 200 mL of ice-water and the purple precipitate was collected by filtration, washed with water, and air dried to give 0.140 g of 4-(3-chloro-phenyl)-2-(5-formyl-4-methoxy-2-nitro-phenylamino)-thiazole-5-carboxylic acid amide (VI.46b).

reactant | 4-(3-chloro-phenyl)-2-(5-dimethoxymethyl-4-methoxy-2-nitro-phenylamino)-thiazole-5-carboxylic acid amide | 0.42 mmole, 0.200 g | ClC=1C=C(C=CC1)C=1N=C(SC1C(=O)N)NC1=C(C=C(C(=C1)C(OC)OC)OC)[N+](=O)[O-] | C20H19ClN4O6S
reactant | hydrochloric acid | 6 M, 2 mL | Cl | ClH
solvent | acetonitrile | 6 mL | C(C)#N | C2H3N
product | 4-(3-chloro-phenyl)-2-(5-formyl-4-methoxy-2-nitro-phenylamino)-thiazole-5-carboxylic acid amide | 0.140 g | ClC=1C=C(C=CC1)C=1N=C(SC1C(=O)N)NC1=C(C=C(C(=C1)C=O)OC)[N+](=O)[O-] | C18H13ClN4O5S
